US05620979
To a stirred mixture of 3-amino-6-chloro-4-nitrobenzotrifluoride (300 mg, 1.25 mmol) in ethanol (5 mL) was added SnCl2.2 H2O (1.40 g, 6.20 mmol) in one portion. The mixture was refluxed at 80° C. (oil bath, 90° C.) for 1 h and the solution was cooled to room temperature and ice water (20 g) was added. It was adjusted to pH=7 and extracted with ethyl acetate. The extract was dried over Mg2SO4 and evaporated to give 185 mg (71%) of 3,4-diamino-6-chlorobenzotrifluoride as a brown solid. 1H NMR (CDCl3): δ 3.404 (s, 2H); 3.717 (s, 2H); 6.754 (s, 1H); 6.974 (s, 1H).

reactant | 3-amino-6-chloro-4-nitrobenzotrifluoride | 1.25 mmol, 300 mg | NC=1C=C(C(=CC1[N+](=O)[O-])Cl)C(F)(F)F | C7H4ClF3N2O2
reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 6.20 mmol, 1.40 g | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3,4-diamino-6-chlorobenzotrifluoride | 185 mg, 71% | NC=1C=C(C(=CC1N)Cl)C(F)(F)F | C7H6ClF3N2
